US07696223B2
b) 4-Acetoxy-3-chloro-7-cyano-1-(3-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 124(a) from 4-acetoxy-7-cyano-1-(3-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and NCS in MeCN. The title compound, ESI MS (m/z): 416 (M+H)+.

reactant | 4-acetoxy-7-cyano-1-(3-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CC2=CC(=CC=C2)F)OC(C)=O | C20H16FN3O4
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | MeCN | CC#N | C2H3N
product | 4-Acetoxy-3-chloro-7-cyano-1-(3-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Cl)CC2=CC(=CC=C2)F)OC(C)=O | C20H15ClFN3O4
